US07696210B2
6-Methyl-3-nitro-pyridin-2-ylamine:
6-Amino picoline (5.0 g, 46 mmol) was cautiously suspended in H2SO4 (25 ml) and cooled in an ice bath. Fuming nitric acid (5 ml) was added slowly, and care was taken to keep the temperature of the reaction as low as possible. The reaction mixture was allowed to stir 3 h after the addition of the nitric acid was complete. The mixture was added to sodium carbonate (65 g), suspended in about ice water (500 ml). Once the neutralization was complete, the aqueous mixture was extracted four times with ethyl acetate. The combined ethyl acetate washings were washed with brine, dried using MgSO4, and concentrated under vacuum to yield the title product (1.3 g, 19%) as a red oil. 1H NMR (DMSO-d6): δ=8.27 (d, 1H, J=8.5 Hz), 7.88 (bs, 2H), 6.63 (1H, d, J=8.5), 2.39 (s, 3H).

reactant | 6-Amino picoline | 46 mmol, 5.0 g | NC1=CC=CC(=N1)C | C6H8N2
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium carbonate | 65 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | H2SO4 | 25 ml | OS(=O)(=O)O | H2O4S
product | 6-Methyl-3-nitro-pyridin-2-ylamine | 1.3 g, 19% | CC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O2
